US05679688
To a vigorously stirred mixture of 0.33 g (0.0103 mol) of anhydrous hydrazine in 50 ml of dry ether was added 1 g (0.01 mol) of t-butyl isocyanate. The resulting mixture was stirred for 2 hr. at room temperature then was kept overnight at 4° C. The crystals formed were filtered off, washed with a small portion of ether and dried to give 0.94 g (72% yield) of (t-butylamino)carbonylhydrazine melting at 192°-193° C. When this was substituted for t-butyl carbazate in Step A of Example 1, the identical process afforded 1-(t-butylamino)carbonyl-2-isopropylhydrazine in 58% yield as a white solid; NMR (CDCl3): 1.03 (d, 6H, isopropyl CH3); 1.33 (s, 9H, t-butyl CH3); 3.9 (broad s, 1 H, NH); 6.02 (broad s, 2H, NH amide). When this was substituted for t-butyl 3-isopropylcarbazate in step B of Example 19 the identical process afforded 1-(t-butylamino)carbonyl-2-[(2S,3S)-2-hydroxy-3-(phenylmethoxycarbonyl)amino-4-phenylbutyl]-2-isopropylhydrazine in 68 % yield, as a white solid; NMR (CDCl3): 1.0 (m, 6H, isopropyl CH3); 1.3 (s, 9H, t-butyl CH3); 2.33-4.22 (m, 8H, butyl CH2 -1,4, CH-2,3, OH, isopropyl CH); 5.05 (s, 2H, methoxy CH2); 5.3 (m, 2H, NH); 5.91 (m 1H, NH); 7.2, 7.35 (m, s, 5H, 5H, aromatic). When this was substituted for t-butyl 3-isopropyl-[(2R, 3S)-2-hydroxy-3-(phenylmethoxycarbonyl)amino-4-phenylbutyl]carbazate in Example 3, the identical process afforded the title compound in 67% yield; melting point=119°-125° C.; Rf (C)=0.06; Rf =0.43; NMR(CDCl3): 1.0 (m, 6H, isopropyl CH3); 1.32 (s, 9H, t-butyl CH3); 2.24-3.38 (m, 7H, butyl CH2 -1,4, CH-3, asn CH2); 3.38-4.63 (m, 3H, butyl CH-2, OH, isopropyl CH); 5.09 (m, 1 H, asn CH); 5.63-8.4 (m, 16H, aromatic, NH); 9.0 (d, 1H, asn NH).

reactant | hydrazine | 0.0103 mol, 0.33 g | NN | H4N2
reactant | t-butyl isocyanate | 0.01 mol, 1 g | C(C)(C)(C)N=C=O | C5H9NO
solvent | ether | 50 ml | CCOCC | C4H10O
product | (t-butylamino)carbonylhydrazine | 0.94 g, 72% yield | C(C)(C)(C)NC(=O)NN | C5H13N3O
